US04528195
Preparation of 1-(3-Phenyl-1-oxapropyl)imidazole
Chloromethyl benzyl ether (32.3 g, 0.2 mol) was added dropwise to a stirred, boiling solution of imidazole (13.6 g, 0.2 ml) and ethanolic sodium ethoxide (prepared from sodium (4.6 g, 0.2 mol) in dry ethanol (150 ml)). Following the addition, the reaction mixture was stirred and heated under reflux for 8 h.

reactant | Chloromethyl benzyl ether | 0.2 mol, 32.3 g | C(C1=CC=CC=C1)OCCl | C8H9ClO
reactant | imidazole | 0.2 ml, 13.6 g | N1C=NC=C1 | C3H4N2
reactant | sodium ethoxide | 0.2 mol, 150 ml, 4.6 g | [O-]CC.[Na+]
product | 1-(3-Phenyl-1-oxapropyl)imidazole | C1(=CC=CC=C1)CCON1C=NC=C1 | C11H12N2O
